4
QN1 1 2 0 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
QN2 3 4 0 NPN 0.99 0.5 1e-9 43.429445e-3 1e-9 43.429445e-3 100 5e-12 100e-18
I0002 0 2 1 0 1E-3
I0004 0 4 1 0 1E-3
V0100 1 0 0 0 10
V0300 3 0 0 0 0.1
.AC DEC 10 1000 100000000
